US06653471B2
Bismuth (III) chloride (0.1 mmol) and sodium iodide (0.3 mmol) are transferred to a dried flask under nitrogen and 5 mL of a mixture of CH2Cl2/ether (9/1) is added by a syringe. This is followed by the addition of acetyl chloride (2.2 mmol) and the suspension is stirred for 5 min at RT. 4-trimethylsilanyloxy-7,8-dihydro-6H-cyclohepta[b]pyrrole-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester (2 mmol) in 5 mL of the same solvent mixture is added. After 2 hours at RT, the mixture is quenched with 20 mL saturated NaHCO3 solution and extracted several times with CH2Cl2. The organic layers are combined, dried over Na2SO4 and evaporated in vacuo yielding 5-acetyl-4-oxo-5,6,7,8-tetrahydro-4H-cyclohepta[b]pyrrole-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester as an oil (86%). LRMS 363.4 found (M+1) 364.2

reactant | Bismuth (III) chloride | 0.1 mmol | [Bi](Cl)(Cl)Cl
reactant | sodium iodide | 0.3 mmol | [I-].[Na+]
reactant | acetyl chloride | 2.2 mmol | C(C)(=O)Cl | C2H3ClO
reactant | 4-trimethylsilanyloxy-7,8-dihydro-6H-cyclohepta[b]pyrrole-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester | 2 mmol | C(C)OC(=O)C=1C2=C(N(C1)C(=O)OC(C)(C)C)CCCC=C2O[Si](C)(C)C | C20H31NO5Si
solvent | CH2Cl2 ether | C(Cl)Cl.CCOCC
product | 5-acetyl-4-oxo-5,6,7,8-tetrahydro-4H-cyclohepta[b]pyrrole-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester | 86% | C(C)OC(=O)C=1C2=C(N(C1)C(=O)OC(C)(C)C)CCCC(C2=O)C(C)=O | C19H25NO6
